US04111850
A solution of 7.3 g of 70% nitric acid (81.1 mmol) in 50 ml acetic acid was added dropwise to a cooled (19°-21° C) acetic acid (200 ml) solution of 15.0 g of N-ethylcarbazole (76.9 mmol). The green reaction solution was then heated on a water bath at 40° C for 2 hours. Upon cooling, addition to 400 ml of water gave a light green precipitate wgich was filtered and air dried. Recrystallization from acetone/methanol gave 13.1 g (71% yield) of 3-nitro-N-ethylcarbazole, mp 118.5°-20° C; the sulfur content (X-ray) was found to be <20 ppm, so that the sulfur in N-ethylcarbazole must be in the elemental or organic (no inorganic) form, most likely the latter, and is easily oxidized to a water soluble form.

reactant | nitric acid | 81.1 mmol, 7.3 g | [N+](=O)(O)[O-] | HNO3
reactant | N-ethylcarbazole | 76.9 mmol, 15.0 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-nitro-N-ethylcarbazole | 13.1 g, 71% yield | [N+](=O)([O-])C=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H12N2O2
